US06562828B1
4-[4-[N-Benzyloxycarbonyl-N-(2-tert-butoxycarbonylmethylamino-5-cyanophenyl)carbamoylmethylamino]phenoxy]piperidine-1-carboxylic Acid tert-Butyl Ester
To a solution of N-(2-amino-4-cyanophenyl)glycine tert-butyl ester (21.53 g) and N-[4-(1-tert-butoxycarbonylpiperidin-4-yloxy)phenyl]-N-benzyloxycarbonyl-aminoacetic acid (42.18 g) in chloroform (300 ml) was added 1-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline (23.68 g), and the mixture was stirred at room temperature for 3 hours. After completion of the reaction, the solvent was evaporated and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:3) to give the title compound (44.479 g).

reactant | N-(2-amino-4-cyanophenyl)glycine tert-butyl ester | 21.53 g | C(C)(C)(C)OC(CNC1=C(C=C(C=C1)C#N)N)=O | C13H17N3O2
reactant | N-[4-(1-tert-butoxycarbonylpiperidin-4-yloxy)phenyl]-N-benzyloxycarbonyl-aminoacetic acid | 42.18 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C(=O)OCC1=CC=CC=C1)CC(=O)O | C26H32N2O7
reactant | 1-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline | 23.68 g | C(C)OC(=O)N1C(C=CC2=CC=CC=C12)OCC | C14H17NO3
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[4-[N-Benzyloxycarbonyl-N-(2-tert-butoxycarbonylmethylamino-5-cyanophenyl)carbamoylmethylamino]phenoxy]piperidine-1-carboxylic Acid tert-Butyl Ester | 44.479 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(CC(NC1=C(C=CC(=C1)C#N)NCC(=O)OC(C)(C)C)=O)C(=O)OCC1=CC=CC=C1 | C39H47N5O8
